US03976693
1-(4-Chlorobutyl)-1-Ethyl-7-Methoxy-2-Tetralone
Using a procedure analogous to that described in Example I for the preparation of 1-(4-chlorobutyl)-1-methyl-7-methoxy-2-tetralone there is obtained from 35 g. of 1-ethyl-7-methoxy-2-tetralone; 37.4 g. of the title product b.p. 160°-173° C. (0.4 mm.).

reactant | 1-(4-chlorobutyl)-1-methyl-7-methoxy-2-tetralone | ClCCCCC1(C(CCC2=CC=C(C=C12)OC)=O)C | C16H21ClO2
reactant | 1-ethyl-7-methoxy-2-tetralone | C(C)C1C(CCC2=CC=C(C=C12)OC)=O | C13H16O2
product | 1-(4-Chlorobutyl)-1-Ethyl-7-Methoxy-2-Tetralone | ClCCCCC1(C(CCC2=CC=C(C=C12)OC)=O)CC | C17H23ClO2
